US05574042
A suspension of 3-bromo-8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine (215 mg) and iron (powder, 84 mg) in a mixture of conc. hydrochloric acid (1 ml) and methanol (1 ml) was refluxed for half an hour. The cooled mixture was poured into an ice water (15 ml). The precipitates were collected and washed with water to give 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride (140 mg) as an off-white solid.

reactant | 3-bromo-8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 215 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)[N+](=O)[O-])Cl)C | C15H10BrCl2N3O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
catalyst | iron | 84 mg | [Fe] | Fe
solvent | methanol | 1 ml | CO | CH4O
product | 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride | 140 mg | Cl.Cl.NC=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | InChI=1S/C15H12BrCl2N3O.2ClH/c1-8-14(16)21-6-2-3-12(15(21)20-8)22-7-9-10(17)4-5-11(19)13(9)18;;/h2-6H,7,19H2,1H3;2*1H
